US04591636
1.6 g of (S)-1',2',3',4'-tetrahydro-3'-hydoxy-3'-hydroxymethyl-5',8'-dimethoxyspiro[1,3-dithiolane-2,1'-naphthalene] were dissolved in 30 ml of dry pyridine and 1.5 g of acetic anhydride were added to the solution. The mixture was left to stand at room temperature for 20 hours and then poured into ice-cold 5-M sulphuric acid. The resulting mixture was extracted with ethyl acetate, the extracts were washed with water and sodium hydrogen carbonate solution, dried and evaporated to give (S)-3'-acetoxymethyl-1',2',3',4'-tetrahydro-3'-hydroxy-5',8'-dimethoxyspiro[1,3-dithiolane-2,1'-naphthalene] in the form of a colourless oil which was used directly in the next step.

reactant | (S)-1',2',3',4'-tetrahydro-3'-hydoxy-3'-hydroxymethyl-5',8'-dimethoxyspiro[1,3-dithiolane-2,1'-naphthalene] | 1.6 g | O[C@@]1(CC2(C3=C(C=CC(=C3C1)OC)OC)SCCS2)CO | C15H20O4S2
reactant | acetic anhydride | 1.5 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | (S)-3'-acetoxymethyl-1',2',3',4'-tetrahydro-3'-hydroxy-5',8'-dimethoxyspiro[1,3-dithiolane-2,1'-naphthalene] | C(C)(=O)OC[C@]1(CC2(C3=C(C=CC(=C3C1)OC)OC)SCCS2)O | C17H22O5S2
